US20010047006A1
Preparation of Intermediate (2S)-2-(2′,2′-Diethyloxyethylamino)-3-phenylpropionic Acid Ethyl Ester
A solution of L-phenylalanine ethyl ester (8.37 g, 46.8 mmol, 1 equiv), bromoacetaldehyde diethyl acetal (10.6 mL, 70.1 mmol, 1.5 equiv), and DIEA (16.2 mL, 93.4 mmol, 2.0 equiv) in DMF (100 mL) was heated at 80° C. for 2 d. The resulting solution was cooled to 23° C., taken up in chloroform (200 mL), washed with 10% aqueous potassium carbonate (3×50 mL), dried over potassium carbonate, and concentrated. Purification of the residue by silica gel chromatography yield 7.4 g (54%) of product. 1H NMR (CDCl3) δ 1.13-1.23 (m, 9H), 2.61 (dd, 1H, J=11.8, 5.9), 2.78 (dd, 1H, J=11.8, 5.9), 2.96-3.03 (m, 2H), 3.46-3.53 (m, 1H), 3.55-3.70 (m, 4H), 4.18 (q, 2H, J=7.1), 4.57 (t, 1H, J=5.5), 7.19-7.33 (m, 5H).

reactant | L-phenylalanine ethyl ester | 46.8 mmol, 8.37 g, 1 equiv | C(C)OC([C@@H](N)CC1=CC=CC=C1)=O | C11H15NO2
reactant | bromoacetaldehyde diethyl acetal | 70.1 mmol, 10.6 mL, 1.5 equiv | C(C)OC(CBr)OCC | C6H13BrO2
reactant | DIEA | 93.4 mmol, 16.2 mL, 2.0 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | (2S)-2-(2′,2′-Diethyloxyethylamino)-3-phenylpropionic Acid Ethyl Ester | C(C)OC([C@H](CC1=CC=CC=C1)NCC(OCC)OCC)=O | C17H27NO4
